### ISSUE TITLE
simp tries to discharge proof obligations that have metavariables in the type

### ISSUE THREAD

**Issue by dselsam** [leanprover/lean4#973]
This issue is a port of https://github.com/leanprover-community/mathport/issues/70 that does not depend on `Mathbin`. The `simp` tactic tries to discharge proof obligations that have metavariables in the type, which seems problematic in general. Here is an example:
```lean
universe u
variable {α : Sort u} {p : α → Prop}

@[simp]
theorem Subtype.coe_mk  (x : α) (h : p x) : (Subtype.mk x h).val = x := 
  rfl

set_option trace.Meta.Tactic.simp.discharge true
example : True := by simp
```
The `simp` tactic still proves the goal quickly but the trace shows a lot of wasted work:
```
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] maximum discharge depth has been reached
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] maximum discharge depth has been reached
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] maximum discharge depth has been reached
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] maximum discharge depth has been reached
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
[Meta.Tactic.simp.discharge] >> discharge?: ?p True
[Meta.Tactic.simp.discharge] maximum discharge depth has been reached
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
[Meta.Tactic.simp.discharge] Subtype.coe_mk, failed to discharge hypotheses
  ?p True
```
Here is the relevant line: https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/Simp/Rewrite.lean#L20

**Comment by leodemoura** [comment]
Eventually, we will have linters for reporting bad simp lemmas like the one above. That being said, I don't see an issue here.

**Comment by fpfu** [comment]
following example will fail (`nightly-2022-01-27`)
```lean
example {a: Nat} (h: a = a): 0 ≤ 0 := by simp_all
```
with message:
```
invalid `simp` theorem, equation is equivalent to
  a = a
```

**Comment by leodemoura** [comment]
@fpfu Thanks for catching this. I will fix it today. The validation should not be applied to local hypotheses.
